US07446222B2
c) Ethyl 4″-chloro-2″-[(phenylmethyl)oxy]-1,1′:2′,1″-terphenyl-2-carboxylate
A mixture of ethyl 2′-bromo-2-biphenylcarboxylate (153 mg, 0.5 mmol), {4-chloro-2-[(phenylmethyl)oxy]phenyl}boronic acid (144 mg, 0.55 mmol), potassium carbonate (552 mg, 4 mmol) and tetrakis(triphenylphosphine)palladium(0) (58 mg, 0.05 mmol) was stirred and heated at 90° C. under nitrogen for 18 hours. After cooling the mixture was diluted with ether/water and the organic phase dried (magnesium sulphate), evaporated and chromatographed on silica eluting with ethyl acetate/iso-hexane (1:19) to give 104 mg of colourless gum.

reactant | ethyl 2′-bromo-2-biphenylcarboxylate | 0.5 mmol, 153 mg | BrC1=C(C=CC=C1)C=1C(=CC=CC1)C(=O)OCC | C15H13BrO2
reactant | {4-chloro-2-[(phenylmethyl)oxy]phenyl}boronic acid | 0.55 mmol, 144 mg | ClC1=CC(=C(C=C1)B(O)O)OCC1=CC=CC=C1 | C13H12BClO3
reactant | potassium carbonate | 4 mmol, 552 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ether water | CCOCC.O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 4″-chloro-2″-[(phenylmethyl)oxy]-1,1′:2′,1″-terphenyl-2-carboxylate | 104 mg | ClC1=CC(=C(C=C1)C=1C(=CC=CC1)C=1C(=CC=CC1)C(=O)OCC)OCC1=CC=CC=C1 | C28H23ClO3
